US07612114B2
Synthesized from 6-(2-azepan-1-ylethoxy)nicotinic acid hydrochloride and 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine according to an analogous synthetic method to Example 337 described below, [6-(2-azepan-1-ylethoxy)pyridin-3-ylmethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (274 mg) was used according to an analogous synthetic method to Preparation Example 18 to provide [6-(2-azepan-1-ylethoxy)pyridin-3-ylmethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamine (264 mg). This compound (262 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (122 mg).

reactant | 6-(2-azepan-1-ylethoxy)nicotinic acid hydrochloride | Cl.N1(CCCCCC1)CCOC1=NC=C(C(=O)O)C=C1
reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
reactant | [6-(2-azepan-1-ylethoxy)pyridin-3-ylmethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 274 mg | N1(CCCCCC1)CCOC1=CC=C(C=N1)CNC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C32H41N3O3
product | [6-(2-azepan-1-ylethoxy)pyridin-3-ylmethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamine | 264 mg | N1(CCCCCC1)CCOC1=CC=C(C=N1)CNCC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C33H43N3O3
